US07008957B2
1h) Methyl (3R,6R,7aS)-6-benzyl-6-tert-butoxycarbonylamino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylate
A total of 1.5 ml of a 2 molar solution of trimethylsilyldiazomethane in hexane is added in portions to a solution of 250 mg of (3R,6R,7aS)-6-benzyl-6-tert-butoxycarbonylamino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylic acid in 8 ml of methanol while stirring at room temperature. After the reaction is complete, the excess trimethylsilyldiazomethane is destroyed by dropwise addition of glacial acetic acid, and the volatile constituents are stripped off in a rotary evaporator at 40° C. The residue is purified on a column (silica gel, mobile phase:ethyl acetate:n-heptane=1:1.5).

reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (3R,6R,7aS)-6-benzyl-6-tert-butoxycarbonylamino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylic acid | 250 mg | C(C1=CC=CC=C1)[C@]1(C[C@@H]2SC[C@H](N2C1=O)C(=O)O)NC(=O)OC(C)(C)C | C19H24N2O5S
solvent | hexane | CCCCCC | C6H14
solvent | methanol | 8 ml | CO | CH4O
product | Methyl (3R,6R,7aS)-6-benzyl-6-tert-butoxycarbonylamino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylate | C(C1=CC=CC=C1)[C@]1(C[C@@H]2SC[C@H](N2C1=O)C(=O)OC)NC(=O)OC(C)(C)C | C20H26N2O5S
